US07202253B2
A solution of 1-phenyl-cyclohexanecarboxylic acid isoquinolin-1-ylamide (0.117 g; 0.35 mmol) in tetrahydrofuran (10 mL) was cooled to 0° C. and treated with lithium aluminum hydride (0.040 g; 1.05 mmol). The reaction mixture was allowed to slowly warm to room temperature. After 18 h at room temperature additional lithium aluminum hydride was added (0.04 g; 1.05 mmol) and the reaction mixture was heated at 40° C. for 2 h. The reaction mixture was cooled back to 0° C. and carefully quenched by the dropwise addition of water. The tetrahydrofuran was removed by evaporation and the crude residue was diluted with ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried (magnesium sulfate), filtered and concentrated. Column chromatography on silicia gel using 7:3 hexane:ethyl acetate as the eluent gave 0.042 g of isoquinolin-1-yl-(1-phenyl-cyclohexylmethyl)-amine as a light yellow oil. LCMS m/z=317.2 (M+H)+; 1H NMR (CDCl3, 300 MHz) δ (ppm) 7.96 (1H, d, J=6.0 Hz), 7.54–7.26 (9H, m), 6.61 (1H, d, J=6.0 Hz), 4.80 (1H, broad S), 3.76 (2H, d, J=5.4 hz), 2.26–2.20 (2H, m), 1.84–1.77 (2H, m), 1.66–1.61 (2H, m), 1.55–1.43 (4H, m); 13C NMR (CDCl3, 75 MHz) 155.4, 144.9, 141.4, 137.1, 129.5, 128.9 (two carbons), 127.1, 127.0 (two carbons), 126.4, 125.8, 121.0, 118.1, 110.5, 52.2, 42.6, 34.3 (two carbons), 26.6, 22.2 (two carbons).

reactant | 1-phenyl-cyclohexanecarboxylic acid isoquinolin-1-ylamide | 0.35 mmol, 0.117 g | C1(=NC=CC2=CC=CC=C12)NC(=O)C1(CCCCC1)C1=CC=CC=C1 | C22H22N2O
reactant | lithium aluminum hydride | 1.05 mmol, 0.040 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | isoquinolin-1-yl-(1-phenyl-cyclohexylmethyl)-amine | 0.042 g | C1(=NC=CC2=CC=CC=C12)NCC1(CCCCC1)C1=CC=CC=C1 | C22H24N2
